US08541594B2
3-(2-chloro-acetyl)bicyclo[3.2.1]octane-2,4-dione (3.16 g, 14.7 mmol) and 4-chloro-thiobenzamide (2.53 g, 14.7 mmol) are mixed together in toluene (50 ml) and heated under reflux overnight. Therefore, the reaction mixture was evaporated to a black gum and the gum was absorbed onto silica and purified by flash chromatography eluting with a gradient of hexane/ethyl acetate to give 3-[2-(4-chloro-phenyl)thiazol-4-yl]bicyclo[3.2.1]octane-2,4-dione (2.6 g).

reactant | 3-(2-chloro-acetyl)bicyclo[3.2.1]octane-2,4-dione | 14.7 mmol, 3.16 g | ClCC(=O)C1C(C2CCC(C1=O)C2)=O | C10H11ClO3
reactant | 4-chloro-thiobenzamide | 14.7 mmol, 2.53 g | ClC1=CC=C(C(=S)N)C=C1 | C7H6ClNS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(4-chloro-phenyl)thiazol-4-yl]bicyclo[3.2.1]octane-2,4-dione | 2.6 g | ClC1=CC=C(C=C1)C=1SC=C(N1)C1C(C2CCC(C1=O)C2)=O | C17H14ClNO2S
